US05246948
Synthesis of 4-[3-(benzoylamino)propylthio]pyridine
To a solution of 1.00 g (4.15 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.77 ml (19.8 mmol) of triethylamine in 40 ml of methylene chloride was added 0.58 ml (4.96 mmol) of benzoyl chloride under ice-cooling with stirring and the mixture stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 960 mg of the desired compound (84.9%, colorless needles), mp: 120.0°-121.0° C.

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 4.15 mmol, 1.00 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 19.8 mmol, 2.77 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 4.96 mmol, 0.58 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(benzoylamino)propylthio]pyridine | 960 mg, 84.9% | C(C1=CC=CC=C1)(=O)NCCCSC1=CC=NC=C1 | C15H16N2OS
